US04565869
A mixture of 144.6 g (1 mol) of 2,4-diamino-6-chloropyrimidine and 2170 ml of dimethyl carbonate is heated to about 80° under nitrogen and while stirring and then treated dropwise over a period of 30 minutes with 373 ml (2 mol) of a 30 percent solution of sodium methylate in methanol, a white suspension resulting. The mixture is thereafter stirred at about 70° for a further hour, poured into a mixture of 3 kg of ice and 1 l of water, treated with 1440 g of sodium chloride and stirred, while cold, for 1 hour. The white precipitation is subsequently separated by suction filtration under a slight vacuum, and the residue is then washed until neutral using three 500 ml portions of ice-cold water. After drying, there is obtained dimethyl 6-chloro-2,4-pyrimidinedicarbamate as a white solid of melting point 156°-158°.

reactant | 2,4-diamino-6-chloropyrimidine | 1 mol, 144.6 g | NC1=NC(=CC(=N1)N)Cl | C4H5ClN4
reactant | dimethyl carbonate | 2170 ml | C(OC)(OC)=O | C3H6O3
reactant | sodium methylate | C[O-].[Na+]
reactant | sodium chloride | 1440 g | [Cl-].[Na+]
reactant | methanol | CO | CH4O
solvent | water | 1 l | O | H2O
product | dimethyl 6-chloro-2,4-pyrimidinedicarbamate | ClC1=CC(=NC(=N1)NC(=O)OC)NC(=O)OC | C8H9ClN4O4
